US05393459
(S)-4-(2-Fluorooctyloxy)benzoic acid and 2-(4-hydroxyphenyl)-5-n-nonylpyrimidine are reacted analogously to give (S)-[4-(5-n-nonylpyrimidin-2-yl)phenyl]4-(2-fluorooctyloxy)benzoate.

reactant | (S)-4-(2-Fluorooctyloxy)benzoic acid | F[C@H](COC1=CC=C(C(=O)O)C=C1)CCCCCC | C15H21FO3
reactant | 2-(4-hydroxyphenyl)-5-n-nonylpyrimidine | OC1=CC=C(C=C1)C1=NC=C(C=N1)CCCCCCCCC | C19H26N2O
product | (S)-[4-(5-n-nonylpyrimidin-2-yl)phenyl]4-(2-fluorooctyloxy)benzoate | C(CCCCCCCC)C=1C=NC(=NC1)C1=CC=C(C=C1)OC(C1=CC=C(C=C1)OC[C@H](CCCCCC)F)=O | C34H45FN2O3
